US08703810B2
3,4-Difluorophenylacetic acid (3.0 g, 17.4 mmol) and 1,4-dimethoxybenzene (3.6 g, 26.1 mmol) in polyphosphoric acid (50 g) was heated at 72° C. for 3 h. The reaction was cooled to 50° C., and H2O (70 mL) was added. The resulting mixture was extracted with ethyl acetate (2×100 mL). The organic layers were combined, washed with brine, dried over Na2SO4, and concentrated under reduced pressure. The crude material was purified on a silica gel column to give 2-(3,4-difluorophenyl)-1-(2,5-dimethoxyphenyl)ethanone (1.3 g) as a pale yellow solid. 1H NMR (300 MHz, DMSO-d6): δ 7.40-7.25 (m, 2H), 7.14-7.10 (m, 3H), 7.08-7.7.03 (m, 1H), 4.29 (s, 2H), 3.86 (s, 3H), 3.73 (s, 3H).

reactant | 3,4-Difluorophenylacetic acid | 17.4 mmol, 3.0 g | FC=1C=C(C=CC1F)CC(=O)O | C8H6F2O2
reactant | 1,4-dimethoxybenzene | 26.1 mmol, 3.6 g | COC1=CC=C(C=C1)OC | C8H10O2
solvent | H2O | 70 mL | O | H2O
product | 2-(3,4-difluorophenyl)-1-(2,5-dimethoxyphenyl)ethanone | 1.3 g | FC=1C=C(C=CC1F)CC(=O)C1=C(C=CC(=C1)OC)OC | C16H14F2O3
